US03975365
Carbobenzoxytyrosine 2,4,5-trichlorophenyl ester (544 parts) is added to a suspension of 131 parts of isoleucine in 2000 parts by volume of dimethylformamide. After adding 101 parts of N-methylmorpholine, the mixture is stirred 48 hours at room temperature. Unreacted isoleucine is still present. Water (500 parts by volume) is added and stirring is continued for another 48 hours. The mixture is concentrated to dryness under high vacuum at 40°. The residue is dissolved in 2000 parts by volume of ethyl acetate, the ethyl acetate is washed with four 2000 parts by volume portions of 0.2 M potassium bisulfate, dried over sodium sulfate and stripped under reduced pressure. The residue is dissolved in 1 l. of chloroform and the solution added dropwise with violent stirring to 20 l. of ether. The resulting white powder, carbobenzoxy=tyrosylisoleucine, (42.8 parts) 0.1 mole, is dissolved in 500 parts by volume of 90% acetic acid and hydrogenated at 60 psi at room temperature over 4.3 parts of palladium black. Hydrogen uptake stopped after 2 hours. The catalyst is filtered off and the filtrate concentrated to dryness under vacuum. The residue is rubbed with ether yielding tyrosylisoleucine, Tyr-Ile.

reactant | Carbobenzoxytyrosine 2,4,5-trichlorophenyl ester | ClC1=C(C=C(C(=C1)Cl)Cl)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C23H18Cl3NO5
reactant | isoleucine | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | Water | O | H2O
product | Tyr-Ile | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C15H22N2O4
